US05194671
Under the same conditions as in Example 1, 130 g (1.0 mol) of ethyl acetoacetate in a mixture of 1.2 l of methylene chloride and 300 ml of methyl ethyl ketone were reacted with 77.8 g (1.05 mol) of calcium hydroxide and 106.5 g (1.15 mol) of propionyl chloride. The subsequent reaction time after the ammonia had been metered in was 4 hours at a pH of 9.3. This gave 134 g (GC purity 72.0%) of ethyl propionylacetate (yield 67.0%).

reactant | ethyl acetoacetate | 1.0 mol, 130 g | C(CC(=O)C)(=O)OCC | C6H10O3
reactant | calcium hydroxide | 1.05 mol, 77.8 g | [OH-].[Ca+2].[OH-]
reactant | propionyl chloride | 1.15 mol, 106.5 g | C(CC)(=O)Cl | C3H5ClO
reactant | ammonia | N | H3N
solvent | methylene chloride | 1.2 l | C(Cl)Cl | CH2Cl2
solvent | methyl ethyl ketone | 300 ml | C(C)C(=O)C | C4H8O
product | ethyl propionylacetate | 134 g, yield 67.0% | C(CC)(=O)CC(=O)OCC | C7H12O3
